US08278331B2
2-Chloro-4-(4-methyl-6-nitropyridin-3-yloxy)pyridine was dissolved in THF (11.95 ml)/methanol (11.95 ml) and ammonium chloride (0.256 g, 4.78 mmol) was added, followed by zinc dust (0.313 g, 4.78 mmol). The mixture stirred at RT for 1.5 hours before it was filtered through Celite®. The filtrate was evaporated under reduced pressure to yield a magenta film which was partitioned between ethyl acetate/THF (4:1) and water. The organic layer was washed with brine, dried (MgSO4) and evaporated to yield 5-(2-chloropyridin-4-yloxy)-4-methylpyridin-2-amine as a brown oil (0.116 g, 103%), which was used in the next step without purification. MS (ESI) m/z: 236.1 (M+H+).

reactant | 2-Chloro-4-(4-methyl-6-nitropyridin-3-yloxy)pyridine | ClC1=NC=CC(=C1)OC=1C=NC(=CC1C)[N+](=O)[O-] | C11H8ClN3O3
reactant | ammonium chloride | 4.78 mmol, 0.256 g | [Cl-].[NH4+]
solvent | THF | 11.95 ml | C1CCOC1 | C4H8O
solvent | methanol | 11.95 ml | CO | CH4O
catalyst | zinc | 4.78 mmol, 0.313 g | [Zn] | Zn
product | 5-(2-chloropyridin-4-yloxy)-4-methylpyridin-2-amine | 0.116 g, 103% | ClC1=NC=CC(=C1)OC=1C(=CC(=NC1)N)C | C11H10ClN3O
